### PR TITLE
Add the `ssrZ` library

### LINKED ISSUE #20: `Z` <-> `int` correspondence, structure instances for `Z`, and bridging `ssralg` to `ring`/`field` tactics
It seems to me that mczify is helpful to write this kind of glue code. Also, we need zify instances for `ringType` operators instantiated with `Z_ringType`. I should probably think about including them in mczify, although the long-term goal is reimplementing the preprocessing/reification procedures such as `zify`, `ring`, and `field` in Coq-Elpi.

The following code is based on one in [elliptic-curves-ssr](https://github.com/strub/elliptic-curves-ssr/blob/631af893e591466207929714c45b5f7476d579d0/common/ssrring.v).

```coq
From Coq Require Import ZArith ZifyClasses Ring Ring_polynom Field_theory.
From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat choice seq.
From mathcomp Require Import fintype finfun bigop order ssralg ssrnum ssrint.
From mathcomp Require Import zify.

Set Implicit Arguments.
Unset Strict Implicit.
Unset Printing Implicit Defensive.

Import GRing.Theory.

Local Open Scope ring_scope.

Definition int_of_Z (n : Z) : int :=
  match n with
  | Z0 => Posz 0
  | Zpos p => Posz (Pos.to_nat p)
  | Zneg p => Negz (Pos.to_nat p).-1
  end.

Definition Z_of_int (n : int) : Z :=
  match n with
  | Posz n => Z.of_nat n
  | Negz n' => Z.opp (Z.of_nat (n' + 1))
  end.

Lemma int_of_ZK : cancel int_of_Z Z_of_int.
Proof. by case=> //= p; lia. Qed.

Instance Op_int_of_Z : UnOp int_of_Z := { TUOp := id; TUOpInj := int_of_ZK }.
Add Zify UnOp Op_int_of_Z.

Instance Op_Z_of_int : UnOp Z_of_int := { TUOp := id; TUOpInj := fun => erefl }.
Add Zify UnOp Op_Z_of_int.

Lemma Z_of_intK : cancel Z_of_int int_of_Z.
Proof. by move=> ?; lia. Qed.

Lemma Z_eqP : Equality.axiom Z.eqb.
Proof. by move=> x y; apply: (iffP idP); lia. Qed.

Canonical Z_eqType := EqType Z (EqMixin Z_eqP).
Canonical Z_choiceType := ChoiceType Z (CanChoiceMixin int_of_ZK).
Canonical Z_countType := CountType Z (CanCountMixin int_of_ZK).

Definition Z_zmodMixin :=
  ZmodMixin Zplus_assoc Zplus_comm Zplus_0_l Zplus_opp_l.
Canonical Z_zmodType := ZmodType Z Z_zmodMixin.

Definition Z_ringMixin :=
  RingMixin
    Zmult_assoc Zmult_1_l Zmult_1_r Zmult_plus_distr_l Zmult_plus_distr_r isT.
Canonical Z_ringType := RingType Z Z_ringMixin.

Section Ring.

Variable (R : ringType).

Definition R_of_Z (n : Z) : R := (int_of_Z n)%:~R.

Lemma R_of_Z_is_additive : additive R_of_Z.
Proof. by move=> x y; rewrite -mulrzBr /+%R /-%R /=; congr intmul; lia. Qed.

Canonical R_of_Z_additive := Additive R_of_Z_is_additive.

Lemma R_of_Z_is_multiplicative : multiplicative R_of_Z.
Proof. by split=> //= x y; rewrite -intrM /*%R /=; congr intmul; lia. Qed.

Canonical R_of_Z_rmorphism := AddRMorphism R_of_Z_is_multiplicative.

Lemma RE : @ring_eq_ext R +%R *%R -%R eq.
Proof. by split; do! move=> ? _ <-. Qed.

Lemma RZ : ring_morph (R := R) 0 1 +%R *%R (fun x y => x - y) -%R eq
                      0%Z 1%Z Zplus Zmult Zminus Z.opp Zeq_bool R_of_Z.
Proof.
by split=> //=;
  [ exact: rmorphD | exact: rmorphB | exact: rmorphM | exact: raddfN
  | by move=> x y /Zeq_bool_eq -> ].
Qed.

Lemma PN : @power_theory R 1 *%R eq nat nat_of_N (@GRing.exp R).
Proof.
by split=> r [|n] //=; elim: n => //= p <-;
  rewrite (Pos2Nat.inj_xI, Pos2Nat.inj_xO) ?exprS -exprD addnn -mul2n.
Qed.

End Ring.

Lemma RR (R : comRingType) :
  @ring_theory R 0 1 +%R *%R (fun x y => x - y) -%R eq.
Proof.
exact/mk_rt/subrr/(fun _ _ => erefl)/mulrDl/mulrA/mulrC/mul1r/addrA/addrC/add0r.
Qed.

Lemma RF (F : fieldType) :
  @field_theory
    F 0 1 +%R *%R (fun x y => x - y) -%R (fun x y => x / y) (@GRing.inv F) eq.
Proof.
by split => //= [||x /eqP];
  [exact: RR | apply/eqP; rewrite oner_eq0 | exact: mulVf].
Qed.

Definition Rcorrect (R : comRingType) :=
  ring_correct
    (Eqsth R) (RE R) (Rth_ARth (Eqsth R) (RE R) (RR R)) (RZ R) (PN R)
    (triv_div_th (Eqsth R) (RE R) (Rth_ARth (Eqsth R) (RE R) (RR R)) (RZ R)).

Definition Fcorrect (F : fieldType) :=
  Field_correct
    (Eqsth F) (RE F) (congr1 GRing.inv)
    (F2AF (Eqsth F) (RE F) (RF F)) (RZ F) (PN F)
    (triv_div_th (Eqsth F) (RE F) (Rth_ARth (Eqsth F) (RE F) (RR F)) (RZ F)).
```

### PR DESCRIPTION
**Pull request by pi8027**
that provides
- some structure instances for `Z` and
- `Z_of_int : int -> Z` and `int_of_Z : Z -> int` ring morphisms.

Another point of this PR is that it will allow us to remove some code from Algebra Tactics.

Close #20

### CODE REVIEW

**Comment by pi8027** [comment]
I think that some others have their own MathComp style libraries to reason about `Z`, and it would be nice to standardize such the library at some point. Any opinion? CC: @affeldt-aist @CohenCyril

**Comment by affeldt-aist** [comment]
I was wondering the same question.
We have been considering isolating the ssrR.v and ssrZ.v files from infotheo following the request of a user,
see https://github.com/affeldt-aist/monae/issues/56
They are two files that provide a renaming of the lemmas of the standard library a la MathComp
but they are a bit ad hoc.

**Comment by pi8027** [comment]
@affeldt-aist Could you remind me why infotheo had to use `Z` rather than `int`? Is there something to do on this point?

**Comment by affeldt-aist** [comment]
infotheo has been using R from the standard library and did a bit of real analysis in which it uses flooring and ceiling functions which led to the use of Z

**Comment by pi8027** [comment]
Good! I hope we will limit the use of `Z` to the case we need efficient computation on integers.

**Comment by affeldt-aist** [comment]
> Good! I hope we will limit the use of `Z` to the case we need efficient computation on integers.

I've issued myself to do just that, it is only a matter of finding the time, I'll try to do it by mid-october and report to you by then

File: theories/ssrZ.v [hunk 1]
```diff
@@ -0,0 +1,169 @@
...
+  | Z0 => Posz 0
+  | Zpos p => Posz (Pos.to_nat p)
+  | Zneg p => Negz (Pos.to_nat p).-1
+  end.
+
+Definition Z_of_int (n : int) : Z :=
+  match n with
+  | Posz n => Z.of_nat n
+  | Negz n' => Z.opp (Z.of_nat (n' + 1))
+  end.
```
Comment (pi8027) [inline theories/ssrZ.v:26]: It would be nice to redefine this with `Z_of_int n := n%:~R` (see `Lemma Z_of_intE` below). But, it requires the `ringType` instance of `Z`, and `Z_of_int` and `int_of_Z` are required to define the `choiceType` and `countType` instances of `Z`. There is some sort of circular dependency here.

File: theories/ssrZ.v [hunk 2]
```diff
@@ -0,0 +1,169 @@
...
+
+Canonical Z_porderType := POrderType ring_display Z Mixin.
+Canonical Z_latticeType := LatticeType Z Mixin.
+Canonical Z_distrLatticeType := DistrLatticeType Z Mixin.
+Canonical Z_orderType := OrderType Z leZ_total.
+Canonical Z_numDomainType := NumDomainType Z Mixin.
+Canonical Z_normedZmodType := NormedZmodType Z Z Mixin.
+Canonical Z_realDomainType := [realDomainType of Z].
+
+Lemma Z_of_intE (n : int) : Z_of_int n = (n%:~R)%R.
```
Comment (pi8027) [inline theories/ssrZ.v:114]: Here.

**Comment by pi8027** [comment]
Anyway, I'm merging this PR now. I hope we will continue to discuss standardizing the `ssrZ` library.
